US07226951B2
N-(3-Bromo-phenyl)-N-methyl-formamide (Intermediate 112)
A solution of 3-bromo-N-methyl aniline (made as described by Lopez et al. in Tet. Lett., 1999, 40, 11, p 2071–2074 incorporated herein by reference; 7.4 g, 39.5 mmol) in formic acid (20 mL) was refluxed for 3 h. The reaction mixture was then cooled to ambient temperature, diluted with water and extracted with diethyl ether. The organic phase was washed with saturated, aqueous sodium bicarbonate solution, water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford the title product as a dark brown oil.

reactant | 3-bromo-N-methyl aniline | 39.5 mmol, 7.4 g | BrC=1C=C(NC)C=CC1 | C7H8BrN
reactant | formic acid | 20 mL | C(=O)O | CH2O2
solvent | water | O | H2O
product | N-(3-Bromo-phenyl)-N-methyl-formamide | BrC=1C=C(C=CC1)N(C=O)C | C8H8BrNO
